US03987052
In the manner given in Example 2, 7-(dipropylamino)-1,3-dihydro-5-(o-nitrophenyl)-2H-1,4-benzodiazepine-2-thione is heated in ethanol with formic acid hydrazide and the resulting product heated to 250° C. to give 8-(dipropylamino)-6-(o-nitrophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 7-(dipropylamino)-1,3-dihydro-5-(o-nitrophenyl)-2H-1,4-benzodiazepine-2-thione | C(CC)N(C=1C=CC2=C(C(=NCC(N2)=S)C2=C(C=CC=C2)[N+](=O)[O-])C1)CCC | C21H24N4O2S
reactant | formic acid hydrazide | C(=O)NN | CH4N2O
solvent | ethanol | C(C)O | C2H6O
product | 8-(dipropylamino)-6-(o-nitrophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(CC)N(C=1C=CC2=C(C(=NCC=3N2C=NN3)C3=C(C=CC=C3)[N+](=O)[O-])C1)CCC | C22H24N6O2
